US06316466B1
To a solution of 3-(2-hydroxyethyl)bromobenzene (4.0 g, 20 mmol) in methylene chloride (100 ml) at 0° C. was added a solution of tert-butyldimethylsilyl chloride (3.6 g, 24 mmol), dimethylaminopyridine (0.61 g, 5 mmol) and triethylamine (3.6 ml, 25.9 mmol). After 1 h, the reaction mixture was washed with brine, saturated ammonium chloride, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (elution gradient: 0-10% hexane/ethyl acetate) to give 3-(2-tert-butyl-dimethylsiloxyethyl)bromobenzene (6.0 g).

reactant | 3-(2-hydroxyethyl)bromobenzene | 20 mmol, 4.0 g | OCCC=1C=C(C=CC1)Br | C8H9BrO
reactant | tert-butyldimethylsilyl chloride | 24 mmol, 3.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylaminopyridine | 5 mmol, 0.61 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 25.9 mmol, 3.6 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-tert-butyl-dimethylsiloxyethyl)bromobenzene | 6.0 g | O([Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)Br | C14H23BrOSi
